US08669234B2
A mixture of 2-(5-{6-[4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-naphthalen-2-yl}-1H-imidazol-2-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester (248 mg, 0.438 mmol, 1.1 eq.), 3-(6-Bromo-1H-benzoimidazol-2-yl)-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester (1 eq., 156 mg, 0.399 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (3%, 10 mg), tetrakis(triphenylphosphine)palladium (3%, 14 mg) and potassium carbonate (3.3 eq., 182 mg) in 4 mL DME and 2 mL water was heated to 90° C. under Argon for 1 hour. The reaction mixture was cooled and diluted in ethyl acetate and washed with saturated sodium bicarbonate solution. The organic layer dried (MgSO4), concentrated and purified by flash column chromatography (silica gel, 20 to 100% ethyl acetate/hexane) to give 3-[6-(4-{6-[2-(1-tert-Butoxycarbonyl-pyrrolidin-2-yl)-3H-imidazol-4-yl]-naphthalen-2-yl}-phenyl)-1H-benzo imidazol-2-yl]-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester (178 mg, yield 59%). LCMS-ESI−: calc'd for C46H50N6O4: 750.93. Found: 751.3 (M+H+).

reactant | 2-(5-{6-[4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-naphthalen-2-yl}-1H-imidazol-2-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.438 mmol, 248 mg, 1.1 eq. | C(C)(C)(C)OC(=O)N1C(CCC1)C=1NC(=CN1)C1=CC2=CC=C(C=C2C=C1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C34H40BN3O4
reactant | 3-(6-Bromo-1H-benzoimidazol-2-yl)-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester | 0.399 mmol, 156 mg, 1 eq. | C(C)(C)(C)OC(=O)N1C2CCC(C1C1=NC3=C(N1)C=C(C=C3)Br)C2 | C18H22BrN3O2
reactant | potassium carbonate | 182 mg, 3.3 eq. | C([O-])([O-])=O.[K+].[K+]
solvent | DME | 4 mL | COCCOC | C4H10O2
solvent | water | 2 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 10 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | tetrakis(triphenylphosphine)palladium | 14 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-[6-(4-{6-[2-(1-tert-Butoxycarbonyl-pyrrolidin-2-yl)-3H-imidazol-4-yl]-naphthalen-2-yl}-phenyl)-1H-benzo imidazol-2-yl]-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester | 178 mg, yield 59% | C(C)(C)(C)OC(=O)N1C2CCC(C1C1=NC3=C(N1)C=C(C=C3)C3=CC=C(C=C3)C3=CC1=CC=C(C=C1C=C3)C=3NC(=NC3)C3N(CCC3)C(=O)OC(C)(C)C)C2 | C46H50N6O4
